US08871756B2
tert-Butyl 4-{[2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]carbonyl}piperidine-1-carboxylate
To a solution of tert-butyl 4-{[2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl](hydroxy)methyl}piperidine-1-carboxylate (200 mg, 0.36 mmol) in dichloromethane (10 mL) was added Dess-Martin reagents (226 mg, 0.54 mmol). The resulting mixture was stirred at room temperature until the reaction was complete monitoring by LC/MS and then concentrated in vacuo. The residue was purified by flash column chromatography on silica gel (eluting with 20-30% ethyl acetate in petroleum ether) to afford 150 mg of the desired product. MS (ESI+) [(M+H)+] 550.

reactant | tert-butyl 4-{[2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl](hydroxy)methyl}piperidine-1-carboxylate | 0.36 mmol, 200 mg | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)C(C2CCN(CC2)C(=O)OC(C)(C)C)O)C)=O | C30H37N3O5S
reactant | Dess-Martin | 0.54 mmol, 226 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | tert-Butyl 4-{[2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]carbonyl}piperidine-1-carboxylate | 150 mg | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)C(=O)C2CCN(CC2)C(=O)OC(C)(C)C)C)=O | C30H35N3O5S
